US08258130B2
A suspension of NaH (8.1 g, 204 mmol, 60% in mineral oil) in DMF (100 mL) at 0° C. is treated with 4-(5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol (3 g, 13.6 mmol) and stirred at 0° C. for 0.5 h. The mixture is treated with HOSA (7.7 g, 68 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×100 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by filtration through a short plug of silica gel to afford 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol, which is used in the next step without further purification. MS: 237 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.30 (m, 1H), 7.22 (m, 1H), 6.98 (m, 2H), 4.71 (s, NH2, 2H), 2.75 (m, 2H), 1.86 (m, 2H), 1.31 (s, 6H).

reactant | NaH | 204 mmol, 8.1 g | [H-].[Na+]
reactant | 4-(5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol | 13.6 mmol, 3 g | FC=1C=C2C(=CNC2=CC1)CCC(C)(O)C | C13H16FNO
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol | NN1C=C(C2=CC(=CC=C12)F)CCC(C)(O)C | C13H17FN2O
